US07790741B2
Preparation #C.1: 5-(3-Fluoro-4-nitrophenyl)-6-(4-fluorophenyl)-imidazo[2,1-b]oxazole
A mixture of 6-(4-fluorophenyl)-5-iodo-imidazo[2,1-b]oxazole (10.0 g, 27.4 mmol; Preparation #A.1), 2-(3-fluoro-4-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (11.9 g, 41.1 mmol; Preparation #B.1), Cs2CO3 (28.6 g, 87.8 mmol), tetrakis(triphenylphosphine)palladium(0) (3.17 g, 2.74 mmol; Strem), DME (150 mL) and water (30.0 mL) was added to a flask with screw-thread top. The flask was sealed and heated at about 100° C. for about 16 h. After cooling to ambient temperature the reaction was concentrated under reduced pressure to remove organic solvent. The resulting mixture was diluted with water (200 mL) and EtOAc (200 mL) then filtered to remove insoluble material. The layers were separated and the aqueous layer was extracted with additional EtOAc (2×200 mL). The combined organic layers were washed with brine, dried over Na2SO4, decanted, and concentrated. The crude material was purified by silica gel chromatography using DCM to give the title compound (7.80 g, 78%): LC/MS (Table 1, Method b) Rt=2.19 min; MS m/z: 342.1 (M+H)+.

reactant | 6-(4-fluorophenyl)-5-iodo-imidazo[2,1-b]oxazole | 27.4 mmol, 10.0 g | FC1=CC=C(C=C1)C=1N=C2OC=CN2C1I | C11H6FIN2O
reactant | 2-(3-fluoro-4-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 41.1 mmol, 11.9 g | FC=1C=C(C=CC1[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BFNO4
reactant | Cs2CO3 | 87.8 mmol, 28.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DME | 150 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 2.74 mmol, 3.17 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 30.0 mL | O | H2O
product | 5-(3-Fluoro-4-nitrophenyl)-6-(4-fluorophenyl)-imidazo[2,1-b]oxazole | 7.80 g, 78% | FC=1C=C(C=CC1[N+](=O)[O-])C1=C(N=C2OC=CN21)C2=CC=C(C=C2)F | C17H9F2N3O3
